US07449456B2
N-methylation of N-(4-nitrophenyl)morpholine-4-carboxamide was effected by allowing it to react with sodium hydride and methyl iodide in DMF, and the resulting compound was subjected to catalytic hydrogenation in the same manner as shown in Reference Example 3 to obtain N-(4-aminophenyl)-N-methylmorpholine-4-carboxamide. F: 236.

reactant | N-(4-nitrophenyl)morpholine-4-carboxamide | [N+](=O)([O-])C1=CC=C(C=C1)NC(=O)N1CCOCC1 | C11H13N3O4
reactant | sodium hydride | [H-].[Na+]
reactant | methyl iodide | CI | CH3I
solvent | DMF | CN(C)C=O | C3H7NO
product | N-(4-aminophenyl)-N-methylmorpholine-4-carboxamide | NC1=CC=C(C=C1)N(C(=O)N1CCOCC1)C | C12H17N3O2
